US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (102 mg, 0.225 mmol was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (42 mg, 0.150 mmol) to afford the desired product (16.8 mg, 48%) as an orange-brown solid: 1H NMR (500 MHz, CD3OD) δ 8.76 (2, 1H), 8.30 (d, J=1.4 Hz, 1H), 8.08-8.00 (m, 2H), 7.33 (d, 0.1=2.1 Hz, 1H), 7.26 (d, J=2.0 Hz, 1H), 4.00 (s, 3H), 3.57 (d, J=12.9 Hz, 2H), 3.34 (s, 3H), 3.24-3.16 (m, 2H), 2.79-2.52 (m, 7H), 2.36 (s, 3H), 2.11 (d, J=11.3 Hz, 2H), 1.96-1.83 (m, 2H), 1.34-1.28 (m, 2H), 126-1.19 (m, 2H); ESI MS m/z 535 [C30H35ClN4O3+H]+; HPLC>99% (AUC), tR=10.13 min.

reactant | {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C23H29BrN4O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 42 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 16.8 mg, 48% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C30H35ClN4O3
